US06515011B2
To a stirred solution of L-prolin-N-(2-(tert-butyloxycarbonylaminomethyl)-5-chlorobenzyl)amide (200 mg, 0.544 mmol) and the sodium salt of 2-phenyl-2-hydroxy-3,3,3-trifluoropropanoic acid from the previous step (144 mg, 0.652 mmol) in DMF (5 mL) at ambient temperature under nitrogen atmosphere was added BOP reagent (288 mg, 0.652 mmol). The mixture was stirred at ambient temperature for 72 h. The solvent was removed under reduced pressure and the residue was purified by preparative reverse phase HPLC using a gradient of 95:5 to 0:100 (water:CH3CN, 0.1% TFA) over 60 min with a flow rate of 60 mL/min. After concentration of desired fractions in vacuo the two diastereomers of 1-(2-hydroxy-2-phenyl-3,3,3-trifluoropropanoyl)-N-(2-tert-butyloxycarbonylaminomethyl-5-chlorobenzyl)-L-prolinamide were obtained as amorphous solids (isomer 1 (more polar) 8.5 mg; HPLC RT=3.70 min, method A; LC-MS m/z=570.1; isomer 2 (less polar) 70 mg; HPLC RT=3.57 min, method A; LC-MS m/z=570.1).

reactant | L-prolin-N-(2-(tert-butyloxycarbonylaminomethyl)-5-chlorobenzyl)amide | 0.544 mmol, 200 mg | C(C)(C)(C)OC(=O)NCC1=C(CNC([C@H]2NCCC2)=O)C=C(C=C1)Cl | C18H26ClN3O3
reactant | sodium | [Na] | Na
reactant | 2-phenyl-2-hydroxy-3,3,3-trifluoropropanoic acid | C1(=CC=CC=C1)C(C(=O)O)(C(F)(F)F)O | C9H7F3O3
reactant | BOP reagent | 0.652 mmol, 288 mg | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-(2-hydroxy-2-phenyl-3,3,3-trifluoropropanoyl)-N-(2-tert-butyloxycarbonylaminomethyl-5-chlorobenzyl)-L-prolinamide | OC(C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)Cl)CNC(=O)OC(C)(C)C)CCC1)(C(F)(F)F)C1=CC=CC=C1 | C27H31ClF3N3O5
